US07235572B2
c] {6-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxyl]-indol-1-yl}-acetic acid tert-butyl ester
In analogy to the procedure described in example 1 a], (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester (example 6 b]) was reacted with 4-bromomethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-thiazole in the presence of cesium carbonate and potassium iodide in acetone for 72 h at ambient temperature to give the title compound as colorless oil.

reactant | (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C14H17NO3
reactant | 4-bromomethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-thiazole | BrCC=1N=C(SC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9BrF3NS
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | {6-[5-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxyl]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N=C(SC1C)C1=CC=C(C=C1)C(F)(F)F)=O | C26H25F3N2O3S
